US06130338
To a solution containing 40.8 g (0.4 mol) of E-2-methyl-2-butene-1,4-diol, 83.8 g (0.8 mol) of triethylamine, and 416.6 g of ethyl acetate in a round flask reactor, methanesulfonyl chloride was added dropwise with stirring for 30 min. at about 5° C. using an ice-bath. After addition, the mixture was allowed to react with stirring for 2 hours at room temperature. To the mixture, 171.7 g (1.6 mol) of benzylamine was added continuously dropwise with stirring for 30 min. at ambient temperature. After 2 hours of stirring, the crystallized solid was removed by filtration; 42.0 g of 35% HCl (aq) was added to the filtrate, and then excess benzylamine hydrochloride was removed by filtration or extraction. After the solvent was evaporated under reduced pressure, 54.2 g of 1-benzyl-3-methyl-3-pyrroline (yield 78.2%) was obtained.

reactant | E-2-methyl-2-butene-1,4-diol | 0.4 mol, 40.8 g | C/C(/CO)=C\CO | C5H10O2
reactant | triethylamine | 0.8 mol, 83.8 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | benzylamine | 1.6 mol, 171.7 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ethyl acetate | 416.6 g | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3-methyl-3-pyrroline | 54.2 g, yield 78.2% | C(C1=CC=CC=C1)N1CC(=CC1)C | C12H15N
